US07595405B2
To a solution of 4′-Methyl-5-nitro-biphenyl-3-carboxylic acid (10.00 g, 0.039 mol) in methanol was added SOCl2 (5.09 g, 0.043 mol) at 0° C. The reaction mixture was allowed to warm to room temperature and was then heated to reflux for 2 hours. The solvent was removed in vacuo to afford 4′-Methyl-5-nitro-biphenyl-3-carboxylic acid methyl ester (9.72 g, 92%) as light yellow solid. MS (M+H)=273.

reactant | 4′-Methyl-5-nitro-biphenyl-3-carboxylic acid | 0.039 mol, 10.00 g | CC1=CC=C(C=C1)C1=CC(=CC(=C1)[N+](=O)[O-])C(=O)O | C14H11NO4
reactant | SOCl2 | 0.043 mol, 5.09 g | O=S(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
product | 4′-Methyl-5-nitro-biphenyl-3-carboxylic acid methyl ester | 9.72 g, 92% | COC(=O)C=1C=C(C=C(C1)[N+](=O)[O-])C1=CC=C(C=C1)C | C15H13NO4
